* Z:\home\lucifer\Electronica\P23 Multiplicator de tensiune Cockcroft-Walton (9 etaje)\Multiplicator de tensiune.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N011 N012 6.8k
R2 N010 N011 1k
C1 N012 0 10n
V1 N010 0 5
X§U1 0 N012 Output_555 N010 NC_01 N012 N011 N010 NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
C2 N001 Output_555 220n
C3 Etaj1 0 220n
D1 0 N001 1N4007
D2 N001 Etaj1 1N4007
C4 N002 N001 220n
C5 Etaj2 Etaj1 220n
D3 Etaj1 N002 1N4007
D4 N002 Etaj2 1N4007
C6 N003 N002 220n
C7 Etaj3 Etaj2 220n
D5 Etaj2 N003 1N4007
D6 N003 Etaj3 1N4007
C8 N004 N003 220n
C9 Etaj4 Etaj3 220n
D7 Etaj3 N004 1N4007
D8 N004 Etaj4 1N4007
C10 N005 N004 220n
C11 Etaj5 Etaj4 220n
D9 Etaj4 N005 1N4007
D10 N005 Etaj5 1N4007
C12 N006 N005 220n
C13 Etaj6 Etaj5 220n
D11 Etaj5 N006 1N4007
D12 N006 Etaj6 1N4007
C14 N007 N006 220n
C15 Etaj7 Etaj6 220n
D13 Etaj6 N007 1N4007
D14 N007 Etaj7 1N4007
C16 N008 N007 220n
C17 Etaj8 Etaj7 220n
D15 Etaj7 N008 1N4007
D16 N008 Etaj8 1N4007
C18 N009 N008 220n
C19 Etaj9 Etaj8 220n
D17 Etaj8 N009 1N4007
D18 N009 Etaj9 1N4007
.model D D
.lib C:\users\lucifer\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 25m
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\lucifer\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
